* Ideal unidirectional switch model

.SUBCKT unidir_switch drain gate source
+PARAMS: R_ON=1e-4 VD_ON=0

* Gate aux resistor
R_auxGATE gate 0 1e6

* Snubber
V_SNB source mid_snb 0
R_SNB mid_snb mid_node 1e5

SW_UNI source mid_node UNIDIR OFF CONTROL={IF(V(gate)>0.99, 1, IF(I(V_SNB) > 0, 1, 0))}
*B_DROP mid_node drain V={IF((V(gate)>0.98), 0, IF(V(source)-V(drain)<VD_ON, V(source)-V(drain), VD_ON))} smoothbsrc=1
*+ rcconst = {GLOBAL_TS*1e-4}

V_DROP mid_node drain 0

.MODEL UNIDIR VSWITCH RON={IF(R_ON<1e-5,1e-5,R_ON)} ROFF=1e5 VON=0.99 VOFF=0.01

.ENDS unidir_switch
